US05872115
Step 2): N-(Piperidin-4-yl)-2-(N'-n-heptylureido)benzamide (0.96 g, 2.7 mmol) and NaBH3CN (0.17 g, 2.7 mmol) were added into a solution of 2.6-diisopropyl-4-(4-fluorophenyl)-3-formyl-5-methoxymethylpyridine (0.9 g, 2.7 mmol) in MeOH (30 ml). The mixture was stirred at room temperature for 72 hours, and then water was added at 0° C. extracted with dichloromethane, dried (MgSO4) and concentrated. The residue was purified by column chromatography on silica gel (10 to 50% ethyl acetate in hexane) to give N-[1-[2,6-diisopropyl-4-(4-fluorophenyl)-5-(methoxymethyl)pyridin-3-yl]methylpiperidin-4-yl]-2-(N'-n-heptylureido)benzamide (0.65 g, 35.7%): mp 123° C.: 1NMR (CDCl3)ppm: 0.88 (3H, t), 1.17-1.46 (22H, m), 1.49-1.66 (2H, m), 1.80-2.00 (4H, m), 2.57 (2H, d), 3.09-3.53 (9H, m), 3.68-3.89 (1H, m), 3.49 (2H, s), 4.53 (1H, t), 5.98 (1H, d), 6.93 (1H, t), 7.05-7.24 (4H, m), 7.33-7.48 (2H, m), 8.41 (1H, d), 10.30 (1H, s).

reactant | N-(Piperidin-4-yl)-2-(N'-n-heptylureido)benzamide | 2.7 mmol, 0.96 g | N1CCC(CC1)NC(C1=C(C=CC=C1)NC(=O)NCCCCCCC)=O | C20H32N4O2
reactant | NaBH3CN | 2.7 mmol, 0.17 g | [BH3-]C#N.[Na+]
reactant | 2.6-diisopropyl-4-(4-fluorophenyl)-3-formyl-5-methoxymethylpyridine | 2.7 mmol, 0.9 g | C(C)(C)C1=NC(=C(C(=C1C=O)C1=CC=C(C=C1)F)COC)C(C)C | C20H24FNO2
reactant | water | O | H2O
solvent | MeOH | 30 ml | CO | CH4O
product | N-[1-[2,6-diisopropyl-4-(4-fluorophenyl)-5-(methoxymethyl)pyridin-3-yl]methylpiperidin-4-yl]-2-(N'-n-heptylureido)benzamide | 0.65 g, 35.7% | C(C)(C)C1=NC(=C(C(=C1CN1CCC(CC1)NC(C1=C(C=CC=C1)NC(=O)NCCCCCCC)=O)C1=CC=C(C=C1)F)COC)C(C)C | C40H56FN5O3
